US08217183B2
Di-acylation (Step A) A suspension of (2,3,5,6-tetrabromothieno[3,2,b]thiophene (10 g, 21.9 mmol) in anhydrous THF (200 mL) was cooled to −78° C. Phenyl lithium solution in n-butyl ether (1.8 mol/L, 25 mL, 45 mmol) was added dropwise and the reaction mixture was stirred at −78° C. for 4 h. Undecanoyl chloride (9.2 g, 44.9 mmol) was added to the reaction mixture via syringe while maintaining the temperature of the mixture as close to −78° C. as possible. The reaction was allowed to warm to RT over about three hours and then stirred overnight at RT. The reaction mixture was then quenched by the addition of crushed ice (200 g). The reaction mixture was stirred while the ice was allowed to melt. Most (greater than about 90%) of the THF was then removed under reduced pressure and the solid was filtered from the residual solution. The solid was suspended in water (100 mL) and stirred for 1 hr then filtered. The solid was resuspended in methanol (100 mL), stirred for 1 hr then filtered to give the product 1-{3,6-dibromo-5-undecanoylthieno[3,2-b]thiophen-2-yl}undecan-1-one as a white solid (5.75 g, 41.3% yield). 1H NMR (CD2Cl2) δ 0.90 (6H, t, J=6.3 Hz), 1.20-1.48 (28H, m), 1.68-1.73 (4H, m), and 3.11 (4H, t, J=7.2 Hz).

reactant | 2,3,5,6-tetrabromothieno[3,2,b]thiophene | 21.9 mmol, 10 g | BrC1=C(C2=C(S1)C(=C(S2)Br)Br)Br | C6Br4S2
reactant | Phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | n-butyl ether | 45 mmol, 1.8 mol/L, 25 mL | C(CCC)OCCCC | C8H18O
reactant | Undecanoyl chloride | 44.9 mmol, 9.2 g | C(CCCCCCCCCC)(=O)Cl | C11H21ClO
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-{3,6-dibromo-5-undecanoylthieno[3,2-b]thiophen-2-yl}undecan-1-one | 5.75 g, 41.3% yield | BrC=1C2=C(SC1C(CCCCCCCCCC)=O)C(=C(S2)C(CCCCCCCCCC)=O)Br | C28H42Br2O2S2
